* C:\users\thatthetheos\My Documents\Université\BAC1\Q2.PROJET\Rapport préjury\LTSpice\oscill_IdealOpAmp.asc
R1 N001 0 10k
R2 5V N001 10k
R3 N002 N003 5k
R4 N002 N001 10k
C1 N003 0 10µ
XU1 NC_01 NC_02 NC_03 NC_04 NC_05 LT1001
XU2 NC_06 NC_07 NC_08 NC_09 NC_10 LT1001
V1 5V 0 5V
R5 N002 N004 10k
XU4 N003 N001 5V 0 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU5 N001 N003 5V 0 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 2000ms
* Pont H + Charge -->
.lib LTC.lib
.lib UniversalOpamps2.sub
.backanno
.end
